US08258144B2
1-(4-(4-(4-(piperidin-4-ylmethylamino)-5-(pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone
A mixture of tert-butyl 4-((2-chloro-5-(pyridine-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate (90 mg, 0.15 mmol), 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone (66 mg, 0.30 mmol) and TMSCl (0.100 mL, 0.79 mmol) in nBuOH (4 mL) was stirred at 135° C. for 68 h. It was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (26 mg). MS 526.47 (M+H); UV 202.6, 259.2, 304.3 nm.

reactant | tert-butyl 4-((2-chloro-5-(pyridine-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate | 0.15 mmol, 90 mg | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=NC=C2)S(=O)(=O)C2=CC=C(C)C=C2)NCC2CCN(CC2)C(=O)OC(C)(C)C | C29H33ClN6O4S
reactant | 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone | 0.30 mmol, 66 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C12H17N3O
reactant | TMSCl | 0.79 mmol, 0.100 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 4 mL | C(CCC)O | C4H10O
product | 1-(4-(4-(4-(piperidin-4-ylmethylamino)-5-(pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 26 mg | N1CCC(CC1)CNC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O)NC=C2C2=CC=NC=C2 | C29H35N9O
